US06355636B1
4-Chloro-6-ethoxy-[1.5]naphthyridine-3-carbonitrile
A solution of 6-ethoxy-4-hydroxyl-[1.5]naphthyridine-3-carbonitrile (500 mg, mmol) in POCl3 was heated at reflux for 2 hrs under nitrogen. The temperature was reduced to 45-50° C. (bath) and heated at this temperature for an additional 2 hrs. After cooling, the solvent was removed by rotary evaporation. The residue was treated with a mixture of ice and water, made basic by using NH4OH, and extracted with CH2Cl2. The combined extracts were washed (brine), dried (Na2SO4), and concentrated to give the title compound as a white solid (522 mg, 100%). H-NMR δ(DMSO-d6): 1.437 (3H, t, CH3), 4.572 (2H, q, CH2), 7.495 (1H, d, C8-H), 8.407 (1H, d, C7-H), 9.108 (1H, s, C2-H).

reactant | 6-ethoxy-4-hydroxyl-[1.5]naphthyridine-3-carbonitrile | 500 mg | C(C)OC=1N=C2C(=C(C=NC2=CC1)C#N)O | C11H9N3O2
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-6-ethoxy-[1.5]naphthyridine-3-carbonitrile | 522 mg, 100% | ClC1=C(C=NC2=CC=C(N=C12)OCC)C#N | C11H8ClN3O
